US08609653B2
An ice cooled solution of Red-Al, 65 wt % solution in toluene (12.58 mL, 41.3 mmol) in tetrahydrofuran (THF) (188 mL) was treated with a solution of 3-ethyl 5-methyl 2-amino-4-(chroman-6-yl)-6-methylpyridine-3,5-dicarboxylate (7.64 g, 20.63 mmol) in tetrahydrofuran (THF) (31.4 mL) and the mixture was stirred at 0° C. for 5 minutes. The mixture was quenched with water (32 mL) then 15% NaOH (16 mL) was added. The mixture was warmed to ambient temperature and stirred for 20 minutes (solids formed). The mixture was filtered and then filtrate was concentrated. The residue was diluted with ethyl acetate, washed with brine, dried over sodium sulfate, filtered and then concentrated to afford the crude methyl 6-amino-4-(chroman-6-yl)-5-(hydroxymethyl)-2-methylnicotinate as a light brown solid which was used without further purification. 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 6.87-6.72 (m, 3 H), 5.35-5.19 (m, 2 H), 4.50-4.41 (m, 2 H), 4.25-4.18 (m, 2 H), 3.50-3.45 (m, 3 H), 2.78 (t, J=6.4 Hz, 2 H), 2.38 (s, 3 H), 2.06-2.00 (m, 2 H); LC/MS (m/z) ES+=329.26 (M+1).

reactant | Red-Al | COCCO[AlH2-]OCCOC.[Na+]
reactant | toluene | 41.3 mmol, 12.58 mL | C1(=CC=CC=C1)C | C7H8
reactant | 3-ethyl 5-methyl 2-amino-4-(chroman-6-yl)-6-methylpyridine-3,5-dicarboxylate | 20.63 mmol, 7.64 g | NC1=NC(=C(C(=C1C(=O)OCC)C=1C=C2CCCOC2=CC1)C(=O)OC)C | C20H22N2O5
solvent | tetrahydrofuran | 188 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 31.4 mL | O1CCCC1 | C4H8O
product | methyl 6-amino-4-(chroman-6-yl)-5-(hydroxymethyl)-2-methylnicotinate | NC1=NC(=C(C(=O)OC)C(=C1CO)C=1C=C2CCCOC2=CC1)C | C18H20N2O4
